US07265148B2
A large excess of Raney® nickel was added in portions to a stirred solution of ethyl 1-benzyl-5-nitro-3-phenyl-1H-indole-2-carboxylate (1.20 g, 3 mmol), and hydrazine (1.5 mL, 47.9 mmol) in 50 mL of ethanol. After stirring at room temperature for 2 h the catalyst was then removed by filtering through a short pad of Celite®521. The filtrate was concentrated to give ethyl 5-amino-1-benzyl-3-phenyl-1H-indole-2-carboxylate (1.0 g, 90%) as an off-white solid: 1H NMR (DMSO-d6) δ 0.91 (t, J=7.0 Hz, 3 H), 4.03 (q, J=7.0 Hz, 2 H), 4.77 (s, 2 H), 5.71 (s, 2 H), 6.61 (d, J=1.8 Hz, 1 H), 6.75 (d, J=2.2 Hz, 1 H), 7,21-7.45 (m, 11 H); MS (EI) m/z 371.2 (MH+).

reactant | ethyl 1-benzyl-5-nitro-3-phenyl-1H-indole-2-carboxylate | 3 mmol, 1.20 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])C1=CC=CC=C1)C(=O)OCC | C24H20N2O4
reactant | hydrazine | 47.9 mmol, 1.5 mL | NN | H4N2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Raney® nickel | [Ni] | Ni
product | ethyl 5-amino-1-benzyl-3-phenyl-1H-indole-2-carboxylate | 1.0 g, 90% | NC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C(=O)OCC)C1=CC=CC=C1 | C24H22N2O2
